US05854274
4-Methoxy-N-(10H-phenothiazin-1-yl)benzenesulfonamide
107 mg (0.5 mmol) of 1-amino-10H-phenothiazine was dissolved in 4 ml of pyridine. Then 2 ml of a solution of 115 mg (0.55 mmol) of 4-methoxybenzenesulfonyl chloride in tetrahydrofuran was added thereto under stirring at room temperature. After stirring at room temperature overnight, the reaction mixture was concentrated. Then ethyl acetate and water were added to the residue and the organic layer was separated, washed with water and dried over magnesium sulfate. After concentrating, the residue was purified by silica gel column chromatography and recrystallized from ethanol. Thus 115 mg of the title compound was obtained.

reactant | 1-amino-10H-phenothiazine | 0.5 mmol, 107 mg | NC1=CC=CC=2SC3=CC=CC=C3NC12 | C12H10N2S
reactant | 4-methoxybenzenesulfonyl chloride | 0.55 mmol, 115 mg | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
solvent | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-Methoxy-N-(10H-phenothiazin-1-yl)benzenesulfonamide | 115 mg | COC1=CC=C(C=C1)S(=O)(=O)NC1=CC=CC=2SC3=CC=CC=C3NC12 | C19H16N2O3S2
